US09284308B2
(1,2-Dimethyl-1H-imidazol-5-yl)(1-methyl-1H-1,2,3-triazol-5-yl)methanone
A solution of 5-bromo-1,2-dimethyl-1H-imidazole (1.5 g, 7.54 mmol) in tetrahydrofuran (25 mL) was cooled to −66° C. Maintaining a temperature of <−50° C., n-butyllithium (3.2 mL, 2.5 M in hexanes, 8.3 mmol) was added over 5 minutes. The reaction mixture was stirred for 15 minutes and then a solution of N-methoxy-N,1-dimethyl-1H-1,2,3-triazole-5-carboxamide (1.3 g, 7.54 mmol, Intermediate 77: step a) in tetrahydrofuran (3 mL) was added over 3 minutes. The mixture was allowed to warm to room temperature while stirring over 30 minutes. Half-saturated aqueous ammonium chloride solution (40 mL) was added and the layers were mixed and separated. The aqueous layer was extracted twice with tetrahydrofuran (50 mL) and then with dichloromethane (50 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated to dryness. The material was triturated with isopropyl alcohol (29 mL), filtered, and rinsed twice with hexanes (25 mL) providing the title compound as a white solid.

reactant | 5-bromo-1,2-dimethyl-1H-imidazole | 7.54 mmol, 1.5 g | BrC1=CN=C(N1C)C | C5H7BrN2
reactant | n-butyllithium | 8.3 mmol, 2.5 M, 3.2 mL | C(CCC)[Li]
reactant | N-methoxy-N,1-dimethyl-1H-1,2,3-triazole-5-carboxamide | CON(C(=O)C1=CN=NN1C)C | C6H10N4O2
reactant | ammonium chloride | 40 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (1,2-Dimethyl-1H-imidazol-5-yl)(1-methyl-1H-1,2,3-triazol-5-yl)methanone | CN1C(=NC=C1C(=O)C1=CN=NN1C)C | C9H11N5O
